US03965174
N',N'-diethylacethydrazide was prepared following essentially the teaching of Hinman and Fulton, J. Amer. Chem. Soc. 80, 1895-1900 (1958). A mixture of 8.2 g (0.094 mole) of freshly distilled N,N-diethylhydrazine and 75 ml of benzene was added to a three-necked 250-ml round bottom flask equipped with a stirrer, a thermometer and a pressure equilibrating addition funnel capped with a drying tube. The flask was cooled in an ice bath. To this stirred solution was added 12.3 g (0.12 mole) of acetic anhydride. The ice bath was removed and the reaction mixture was heated for 1 hr. at 48°-58°. A fractional distillation of the reaction mixture gave a cut, b.p. 83°-84° at 3 mm, which melted at 47.5°-49.5°. NMR (CCl4, TMS) τ 1.0 (3 H, t), 1.9 (3 H, s), 2.6 (2 H, quad), 8.5 (1 H, broad).

reactant | N,N-diethylhydrazine | C(C)N(N)CC | C4H12N2
reactant | benzene | 75 ml | C1=CC=CC=C1 | C6H6
reactant | acetic anhydride | 0.12 mole, 12.3 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | CCl4 | C(Cl)(Cl)(Cl)Cl | CCl4
product | N',N'-diethylacethydrazide | C(C)N(NC(C)=O)CC | C6H14N2O
